US04892578
This compound was prepared in a manner analogous to that of Example 1, Step C, using 3.0 grams (0.012 mole) of 2-[(4-amino-2-chlorophenyl)methyl]-4,4-dimethyl-3-isoxazolidinone and 1.8 grams (0.012 mole) of phthalic anhydride in 125 mL of tetrahydrofuran. The reaction mixture was dissolved in 200 mL of methylene chloride and washed with four 50 mL portions of an aqueous 10% hydrochloric acid solution. The organic layer was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to a semi-solid residue. The residue was stirred and heated in ethyl acetate-heptane. The resultant solid was collected by filtration and was recrystallized from acetate/hexane to yield 0.5 gram of 2-[[2-chloro-4-[(2-carboxyphenyl)carbonylamino]phenyl]methyl]-4,4-dimethyl-3-isoxazolidinone; m.p. 172° C., dec.

reactant | 2-[(4-amino-2-chlorophenyl)methyl]-4,4-dimethyl-3-isoxazolidinone | 0.012 mole, 3.0 grams | NC1=CC(=C(C=C1)CN1OCC(C1=O)(C)C)Cl | C12H15ClN2O2
reactant | phthalic anhydride | 0.012 mole, 1.8 grams | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | tetrahydrofuran | 125 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 2-[[2-chloro-4-[(2-carboxyphenyl)carbonylamino]phenyl]methyl]-4,4-dimethyl-3-isoxazolidinone | 0.5 gram | ClC1=C(C=CC(=C1)NC(=O)C1=C(C=CC=C1)C(=O)O)CN1OCC(C1=O)(C)C | C20H19ClN2O5
